### PR TITLE
[Merged by Bors] - chore: add a focusing dot

### PR DESCRIPTION
**Pull request by adomani**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 1]
```diff
@@ -771,7 +771,7 @@ theorem Cauchy.eventually_mem_nhds {ℱ : Filter (LaurentSeries K)} (hℱ : Cauc
     rw [← WithZero.coe_unzero γ.ne_zero, WithZero.coe_lt_coe, hD₀, neg_neg, ofAdd_sub,
       ofAdd_toAdd, div_lt_comm, div_self', ← ofAdd_zero, Multiplicative.ofAdd_lt]
     exact zero_lt_one
-  apply coeff_eventually_equal hℱ |>.mono
+  apply coeff_eventually_equal (D := D) hℱ |>.mono
```
Comment (eric-wieser) [inline Mathlib/RingTheory/LaurentSeries.lean:774]: What's the purpose in this change?

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 2]
```diff
@@ -106,7 +106,8 @@ def ker : TwoSidedIdeal R :=
     (by rintro _ _ (h : f _ = 0); simp [h])
 
 lemma mem_ker {x : R} : x ∈ ker f ↔ f x = 0 := by
-  delta ker; rw [mem_mk']; rfl
+  delta ker; rw [mem_mk']
+  · rfl
   · rintro _ _ (h1 : f _ = 0) (h2 : f _ = 0); simp [h1, h2]
   · rintro _ (h : f _ = 0); simp [h]
   · rintro _ _ (h : f _ = 0); simp [h]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:113]: I think @Vtec234 identified that this proof is only needed because `mem_mk'` has its arguments declared incorrectly?

File: Mathlib/RingTheory/LaurentSeries.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/RingTheory/LaurentSeries.lean:774]: Without it, Lean was creating a goal for `D` that spanned, that was closed only when the "current" goal was closed, but lingered as a "side goal" for the ride.

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:113]: OK, so should I base this PR off another one and this change would disappear?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean (hunk 2 above)
Comment (Vtec234) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:113]: In #17341 none of the subgoals are created anymore.
